US07560546B2
Step B: 5-Chloro-2-(ethoxycarbonyl)-1-(phenylsulfonyl)-1H-indole-3-sulfonic acid
To a solution of ethyl 5-chloro-1-(phenylsulfonyl)-1H-indole-2-carboxylate (5.56 g, 15.3 mmol) in 50 mL of dichloromethane at 0° C. was added acetic anhydride (7.23 mL, 76.6 mmol), followed by dropwise addition of concentrated sulfuric acid. The solution was warmed to room temperature, stirred for 3 hours, and partitioned between 0.5 L of EtOAc and 0.5 L of 3N HCl solution. The organic phase was washed with brine, dried with Na2SO4, filtered, and concentrated in vacuo. The product was reconcentrated from benzene in vacuo to give the titled product as a yellow solid. Proton NMR for the product was consistent with the titled compound of the formula C17H14ClNO7S2·.0.5 CH3CO2H. ESI+MS: 444.0 [M+H]+, 466.0 [M+Na]+.

reactant | ethyl 5-chloro-1-(phenylsulfonyl)-1H-indole-2-carboxylate | 15.3 mmol, 5.56 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C17H14ClNO4S
reactant | acetic anhydride | 76.6 mmol, 7.23 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-Chloro-2-(ethoxycarbonyl)-1-(phenylsulfonyl)-1H-indole-3-sulfonic acid | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)O | C17H14ClNO7S2
